* NexRx Digital Twin - 800 Ohm Preselector
* Switched LC tank for band selection
*
* Reference: RX-ARCHITECTURE.md Section "800 Ohm Preselector Design"
* Nominal impedance: 800 ohms
* Frequency range: 1-30 MHz
*
* Copyright 2026 NexRx Project - MIT License

.INCLUDE 'components.lib'

*======================================================================
* PRESELECTOR SUBCIRCUIT
* Ports: IN, OUT, GND
* Control: L1_EN, L2_EN, L3_EN, L4_EN (inductor select)
*          C0-C9 (10-bit binary capacitor bank)
*======================================================================

.SUBCKT PRESELECTOR IN OUT GND
+ L1_EN L2_EN L3_EN L4_EN
+ C0 C1 C2 C3 C4 C5 C6 C7 C8 C9

*----------------------------------------------------------------------
* Switched Inductor Bank
* L1: 500nH with 2.2nF parallel resonance trap + 6.8 ohm damping (160m/80m)
* L2: 480nH (mid-HF)
* L3: 180nH (upper-HF)
* L4: 68nH (10m)
* Inductors can be paralleled for intermediate values
*----------------------------------------------------------------------

* L1 path with 160m trap (series resonant at ~4.8 MHz to damp low-band ringing)
X_SW_L1 IN L1_IN L1_EN GND SW_TS3A4751
R_DAMP1 L1_IN L1_MID 6.8
X_L1 L1_MID L_COMMON IND_Q LVAL=500n QVAL=80 FQ=3MEG
C_TRAP1 L1_MID L_COMMON 2.2n

* L2 path - 480nH (mid-HF bands)
X_SW_L2 IN L2_IN L2_EN GND SW_TS3A4751
X_L2 L2_IN L_COMMON IND_Q LVAL=480n QVAL=100 FQ=10MEG

* L3 path - 180nH (upper-HF)
X_SW_L3 IN L3_IN L3_EN GND SW_TS3A4751
X_L3 L3_IN L_COMMON IND_Q LVAL=180n QVAL=120 FQ=20MEG

* L4 path - 68nH (10m band)
X_SW_L4 IN L4_IN L4_EN GND SW_TS3A4751
X_L4 L4_IN L_COMMON IND_Q LVAL=68n QVAL=100 FQ=28MEG

*----------------------------------------------------------------------
* Binary Weighted Capacitor Bank
* 10 bits: 4, 8, 16, 32, 64, 128, 256, 512, 1024, 2048 pF
* Total range: 4-4092 pF in 4 pF steps
* Plus ~18pF parasitic
*----------------------------------------------------------------------

* Parasitic capacitance (PCB + switch)
C_PAR L_COMMON GND 18p

* Switched capacitors (C0=LSB=4pF, C9=MSB=2048pF)
* Using simplified switch model - ideal switch + cap

* C0 - 4pF
X_SW_C0 L_COMMON C0_NODE C0 GND SW_TS3A4751
C_C0 C0_NODE GND 4p

* C1 - 8pF
X_SW_C1 L_COMMON C1_NODE C1 GND SW_TS3A4751
C_C1 C1_NODE GND 8p

* C2 - 16pF
X_SW_C2 L_COMMON C2_NODE C2 GND SW_TS3A4751
C_C2 C2_NODE GND 16p

* C3 - 32pF
X_SW_C3 L_COMMON C3_NODE C3 GND SW_TS3A4751
C_C3 C3_NODE GND 32p

* C4 - 64pF
X_SW_C4 L_COMMON C4_NODE C4 GND SW_TS3A4751
C_C4 C4_NODE GND 64p

* C5 - 128pF
X_SW_C5 L_COMMON C5_NODE C5 GND SW_TS3A4751
C_C5 C5_NODE GND 128p

* C6 - 256pF
X_SW_C6 L_COMMON C6_NODE C6 GND SW_TS3A4751
C_C6 C6_NODE GND 256p

* C7 - 512pF
X_SW_C7 L_COMMON C7_NODE C7 GND SW_TS3A4751
C_C7 C7_NODE GND 512p

* C8 - 1024pF
X_SW_C8 L_COMMON C8_NODE C8 GND SW_TS3A4751
C_C8 C8_NODE GND 1024p

* C9 - 2048pF (MSB)
X_SW_C9 L_COMMON C9_NODE C9 GND SW_TS3A4751
C_C9 C9_NODE GND 2048p

*----------------------------------------------------------------------
* Output connection
*----------------------------------------------------------------------
* Direct connection from LC tank to output
R_OUT L_COMMON OUT 0.1

.ENDS PRESELECTOR

*======================================================================
* TEST CIRCUIT - Preselector tuned for 20m band (14 MHz)
* Using L3 (180nH) and appropriate capacitance
* f = 1/(2*pi*sqrt(L*C)) -> C = 1/(4*pi^2*f^2*L)
* At 14 MHz with 180nH: C = 716 pF
* Binary: 512 + 128 + 64 + 8 + 4 = 716 pF -> C0,C1,C4,C5,C7 on
*======================================================================

* Input source - 50 ohm impedance
VIN IN_50 0 SIN(0 0.1 14MEG)
R_SRC IN_50 IN_200 150

* 50 to 200 ohm transformer (simulated as resistor divider for test)
* In real circuit this is a transmission line transformer
R_MATCH IN_200 PRESEL_IN 0.1

* Preselector instance
X_PRESEL PRESEL_IN PRESEL_OUT 0
+ L1_EN L2_EN L3_EN L4_EN
+ C0 C1 C2 C3 C4 C5 C6 C7 C8 C9
+ PRESELECTOR

* Control voltages for 20m (14 MHz) tuning
* L3 enabled (180nH), C0+C1+C4+C5+C7 = 716pF
V_L1 L1_EN 0 0
V_L2 L2_EN 0 0
V_L3 L3_EN 0 3.3
V_L4 L4_EN 0 0

V_C0 C0 0 3.3
V_C1 C1 0 3.3
V_C2 C2 0 0
V_C3 C3 0 0
V_C4 C4 0 3.3
V_C5 C5 0 3.3
V_C6 C6 0 0
V_C7 C7 0 3.3
V_C8 C8 0 0
V_C9 C9 0 0

* Load resistor (represents QSD input impedance after transformer)
R_LOAD PRESEL_OUT 0 800

* Transient analysis
.TRAN 1n 2u

* Print output
.PRINT TRAN V(PRESEL_IN) V(PRESEL_OUT)

.END
